US05476944
2-[[4-(1,1-dimethylethyl)phenyl]thio]cyclohexanone (26)
To a solution of 2-chlorocyclohexanone (6.1 g, 0.046 moles) in tetrahydrofuran (250 ml) cooled to +5° C. by an ice bath was added 4-t-butyl-thiophenol (6.6 g, 0.040 moles). After stirring for 15 minutes, triethylamine (13 ml) was added. The ice bath was removed and the mixture was stirred at room temperature for 60 hours. The mixture was filtered to remove a white solid. The filtrate was concentrated to an oil, and the product was purified by silica gel chromatography to give a white solid which was recrystallized from hexane (DSC 64.25° C.). The structure was supported by NMR and Ir.

reactant | 2-chlorocyclohexanone | 0.046 moles, 6.1 g | ClC1C(CCCC1)=O | C6H9ClO
reactant | 4-t-butyl-thiophenol | 0.040 moles, 6.6 g | C(C)(C)(C)C1=CC=C(C=C1)S | C10H14S
reactant | triethylamine | 13 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 2-[[4-(1,1-dimethylethyl)phenyl]thio]cyclohexanone | CC(C)(C)C1=CC=C(C=C1)SC1C(CCCC1)=O | C16H22OS
